US07820821B2
To a solution of 2,6-dinitro-2H-indazole (1 mmol) (prepared by nitration of 6-nitroindazole; Wrzeciono, et al., E. Pharmazie, 1980, 35, 593-596) in dry THF (4 mL) at 0° C., 2-morpholin-4-yl-ethylamine (2 mmol) was added dropwise. The reaction mixture was allowed to warm to room temperature and stirred for 12 h. The contents were diluted with ethyl acetate (20 mL), washed with water (2×10 mL), and brine (10 mL) and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to yield 3-(2-morpholin-4-yl-ethylamino)-6-nitro-1H-indazole as a brown solid, which was reduced to 3-(2-morpholin-4-yl-ethylamino)-1H-indazol-6-ylamine by hydrogenation following general procedure F.

reactant | 2,6-dinitro-2H-indazole | 1 mmol | [N+](=O)([O-])N1N=C2C=C(C=CC2=C1)[N+](=O)[O-] | C7H4N4O4
reactant | 2-morpholin-4-yl-ethylamine | 2 mmol | N1(CCOCC1)CCN | C6H14N2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-morpholin-4-yl-ethylamino)-6-nitro-1H-indazole | N1(CCOCC1)CCNC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C13H17N5O3
